US09340544B2
(4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-7-methyl-7H-purin-6-yl]-amine (Compound 6.3)
Was prepared according to Example 6 from (2-chloro-7-methyl-7H-purin-6-yl)(4-chloro-phenyl)-amine and 3,5-dimethylpyrazole.

reactant | (2-chloro-7-methyl-7H-purin-6-yl)(4-chloro-phenyl)-amine | ClC1=NC(=C2N(C=NC2=N1)C)NC1=CC=C(C=C1)Cl | C12H9Cl2N5
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-7-methyl-7H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N(C=NC2=NC(=N1)N1N=C(C=C1C)C)C | C17H16ClN7
